US07262212B2
m-Chloroperbenzoic acid (213 g, 861 mmol) was gradually added to a solution of 2-methoxymethoxymethyl-3-methyl-l-butene (89 g, 615 mmol) in methylene chloride (800 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 18 hours. The reaction mixture was washed with 10% potassium sulfide aqueous solution and sodium hydrogencarbonate aqueous solution, dried over sodium sulfate, and then concentrated under reduced pressure to afford 2-isopropyl-2-methoxymethoxymethyloxirane (98 g, quantitative) as a colorless oil.

reactant | m-Chloroperbenzoic acid | 861 mmol, 213 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methoxymethoxymethyl-3-methyl-l-butene | 615 mmol, 89 g | COCOCC(=C)C(C)C | C8H16O2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | 2-isopropyl-2-methoxymethoxymethyloxirane | 98 g | C(C)(C)C1(OC1)COCOC | C8H16O3
